US07790732B2
e) 5,8-Dichloro-4-methyl-3,4-dihydro-quinazolin-2-ylamine
5,8-Dichloro-4-methyl-2-methylsulfanyl-3,4-dihydro-quinazoline hydroiodide (116 mg, 0.30 mmol) was suspended in a mixture of ammonium hydroxide (0.22 ml, 25% in H2O, 3 mmol) and acetonitrile (0.9 ml), and heated in a microwave oven to 170° C. (30 min). The reaction was cooled in an ice bath and treated with 1N aqueous sodium hydroxide solution (0.9 ml) and 5-6 drops of concentrated solution of aqueous hydrogen peroxide. A little water was added, and the title compound (36 mg, 52%) was filtered off as a white solid.

reactant | 5,8-Dichloro-4-methyl-2-methylsulfanyl-3,4-dihydro-quinazoline hydroiodide | 0.30 mmol, 116 mg | I.ClC1=C2C(NC(=NC2=C(C=C1)Cl)SC)C
reactant | ammonium hydroxide | 3 mmol, 0.22 ml | [OH-].[NH4+]
reactant | sodium hydroxide | 1N, 0.9 ml | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
solvent | acetonitrile | 0.9 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 5,8-Dichloro-4-methyl-3,4-dihydro-quinazolin-2-ylamine | ClC1=C2C(NC(=NC2=C(C=C1)Cl)N)C | C9H9Cl2N3
